US09303232B2
Synthesis of methyl 3,4-dimethylcyclohex-3-enecarboxylate
A solution of methyl acrylate (1 eq.) and 2,3-dimethylbuta-1,3-diene (1.1 eq.) in toluene (2M) was pumped through a heated coil reactor at 220° C. with a residence time of 17 minutes. The resulting mixture was concentrated under reduced pressure and yielded the product as colorless oil (87% yield).

reactant | methyl acrylate | 1 eq. | C(C=C)(=O)OC | C4H6O2
reactant | 2,3-dimethylbuta-1,3-diene | 1.1 eq. | CC(=C)C(=C)C | C6H10
solvent | toluene | 2M | C1(=CC=CC=C1)C | C7H8
product | methyl 3,4-dimethylcyclohex-3-enecarboxylate | 87% yield | CC=1CC(CCC1C)C(=O)OC | C10H16O2
